US09062092B2
Compound 98b. 5-Acetyl-2,2-dimethyl-[1,3]dioxane-5-carboxylic acid tert-butyl ester
A mixture of 2,2-bis-hydroxymethyl-3-oxo-butyric acid tert-butyl ester (8.67 g, 40 mmol), acetone (30 mL, 400 mmol), 2,2-dimethoxypropane (41.6 g, 50 mL, 400 mmol) and 4-toluenesulfonic acid hydrate (152 mg, 0.8 mmol) was stirred at room temperature for 18 h. The solvent was partially evaporated to a volume of ˜20 mL. Saturated sodium hydrogen carbonate solution was added and the mixture was extracted with ethyl acetate. The organic extracts were combined, washed with water and brine. The organic layer was filtered through a hydrophobic frit and the filtrate was evaporated. The residue was purified by silica gel chromatography using a gradient of iso-hexanes/ethyl acetate 9:1 to 4:1 to afford the title compound (7.82 g, 75%) as a clear oil. 1H NMR (300 MHz, CDCl3) δ 1.39 (s, 3H), 1.44 (s, 3H), 1.48 (s, 9H), 2.32 (s, 3H), 6.36 (ABq, ΔδAB=0.05, JAB=11.8 Hz, 4H). LCMS (m/z) 281.2 [M+Na], Tr=2.44 min.

reactant | 2,2-bis-hydroxymethyl-3-oxo-butyric acid tert-butyl ester | 40 mmol, 8.67 g | C(C)(C)(C)OC(C(C(C)=O)(CO)CO)=O | C10H18O5
reactant | acetone | 400 mmol, 30 mL | CC(=O)C | C3H6O
reactant | 2,2-dimethoxypropane | 400 mmol, 50 mL, 41.6 g | COC(C)(C)OC | C5H12O2
catalyst | 4-toluenesulfonic acid hydrate | 0.8 mmol, 152 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 5-Acetyl-2,2-dimethyl-[1,3]dioxane-5-carboxylic acid tert-butyl ester | 7.82 g, 75% | C(C)(C)(C)OC(=O)C1(COC(OC1)(C)C)C(C)=O | C13H22O5
